US09260500B2
Commercially available Rink Amide MBHA resin (1 g, 0.45 mmol) was measured and placed in a reaction vessel and swollen with DMF. By a manual solid phase synthesis operation, Tyr(But), Arg(Pbf) were successively condensed, and Fmoc was removed. The resin was washed with DMF, MeOH, and dried to give H-Arg(Pbf)-Tyr(But)-Rink Amide MBHA resin (1.162 g). From the obtained resin, 65.6 mg, 0.025 mmol was measured and placed in a reaction vessel. Gln(Trt), Lys(Mtt) were introduced thereto by manual solid phase synthesis process to give Fmoc-Lys(Mtt)-Gln(Trt)-Arg(Pbf)-Tyr(But)-Rink Amide MBHA resin (SEQ ID NO:175) (Mtt: methyltrityl). The obtained resin was washed with toluene, then TFA-TIS-TFE-toluene (1:5:47:47) was added and the mixture was shaken in the reaction vessel for 10 min. The processing was repeated until the solution was no longer colored with free trityl group to remove Mtt group. The resin was neutralized with 5% DIEA/toluene solution, suspended in toluene:TFE (4:1), N,N-bis-Boc-1-guanylpyrazole (31.0 mg, 0.1 mmol) was added, and the mixture was adjusted to pH 10 with DIEA, and treated overnight at room temperature. After removal of Fmoc from the obtained Fmoc-Har(Boc2)-Gln(Trt)-Arg(Pbf)-Tyr(But)-Rink Amide MBHA resin (SEQ ID NO:157), the resin was treated with Fmoc-Ambz(4)-Arg(Pbf)-Ala-Tyr(But)-Ile-Asn (Trt)-Leu-Ile-Thr (γMe,MePro)-OH (28.4 mg, 0.015 mmol) obtained in Example 3, PyAOP (27.1 mg, 0.05 mmol), 0.5 M HOAt/DMF (0.2 mL, 0.1 mmol), DIEA (34.8 μL, 0.2 mmol) at room temperature overnight. The obtained resin (92.0 mg) was treated with TFA:thioanisole:m-cresol:H2O:EDT:TIS (80:5:5:5:2.5:2.5) (0.6 mL) for 90 min, and diethyl ether was added to the reaction solution to allow precipitation of a white powder. An operation to remove ether by decantation after centrifugation was repeated twice to remove acid and scavenger. The residue was extracted with aqueous acetic acid solution, and purified by preparative HPLC using Daisopak-SP100-5-ODS-P 2×25 cm to give 2.2 mg of a white powder.

reactant | Tyr(But) | N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O | C13H19NO3
reactant | Arg(Pbf) | N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C(C)=C2OC(C)(C)CC2=C1C)=N)C(=O)O | C19H30N4O5S
solvent | DMF | CN(C)C=O | C3H7NO
product | H-Arg(Pbf)-Tyr(But) | 1.162 g | N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C(C)=C2OC(C)(C)CC2=C1C)=N)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O | C32H47N5O7S
